US05545750
2,2-Di-(2-phenylethyl)-1,3-dioxolane
A solution of 135 mg (0.6 mmol) of 1,5-diphenyl-3-pentanone, 0.2 ml of ethylene glycol, and 10 mg of p-toluene sulfonic acid monohydrate was refluxed with azeotropic removal of water. After separation of water was completed, the solution was diluted with ethyl acetate, washed sequentially with aqueous NaHCO and water, dried over Na2SO4, and concentrated to provide the desired compound. 1H NMR (CDCl3) δ2.0 (m, 4H), 2.71 (m, 4H), 4.03 (s, 4H), 7.15-7.3 (m, 10H). Mass spectrum: (M+H)+ =283.

reactant | 1,5-diphenyl-3-pentanone | 0.6 mmol, 135 mg | C1(=CC=CC=C1)CCC(CCC1=CC=CC=C1)=O | C17H18O
reactant | ethylene glycol | 0.2 ml | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid monohydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 2,2-Di-(2-phenylethyl)-1,3-dioxolane | C1(=CC=CC=C1)CCC1(OCCO1)CCC1=CC=CC=C1 | C19H22O2
